US09079861B2
To a solution of (R)-3-phenyl-N1-m-tolylbutane-1,3-diamine (50 mg, 0.2 mol) and Et3N (60 mg, 0.6 mmol) in CH2Cl2 (3 mL) was added triphosgene (24 mg, 0.08 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 2 h and concentrated. The residue was purified by preparative HPLC to give 4-methyl-4-phenyl-1-m-tolyl-tetrahydro-pyrimidin-2-one (8 mg, 14%). LC-MS Method 1 tR=1.13 min, m/z=281; 1H NMR (CDCl3): 1.65 (s, 3H), 2.15-2.23 (m, 1H), 2.25 (s, 3H), 2.27-2.47 (m, 1H), 3.20-3.22 (t, 1H), 3.37-3.40 (d, 1H), 6.89-6.92 (m, 2H), 6.99-7.01 (m, 1H), 7.15-7.17 (m, 1H), 7.25-7.27 (m, 1H), 7.7.31-7.38 (m, 4H), 7.83 (s, 1H).

reactant | (R)-3-phenyl-N1-m-tolylbutane-1,3-diamine | 0.2 mol, 50 mg | C1(=CC=CC=C1)[C@](CCNC=1C=C(C=CC1)C)(C)N | C17H22N2
reactant | Et3N | 0.6 mmol, 60 mg | CCN(CC)CC | C6H15N
reactant | triphosgene | 0.08 mmol, 24 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-methyl-4-phenyl-1-m-tolyl-tetrahydro-pyrimidin-2-one | 8 mg, 14% | CC1(NC(N(CC1)C=1C=C(C=CC1)C)=O)C1=CC=CC=C1 | C18H20N2O
